US06008229
To a solution of 1-[3-(tert-butyldiphenylsilyloxymethyl)-2,4-dichlorophenyl]pyrrole (1.20 g) in anhydrous dichloromethane (12 ml) was added a solution of chlorosulfonyl isocyanate (0.28 ml) in anhydrous dichloromethane (2.8 ml) dropwise in a dry ice-carbon tetrachloride bath. The mixture was stirred at the same temperature for 30 minutes and then at ambient temperature for additional 1 hour. Anhydrous dimethylformamide (0.4 ml) was added to this mixture dropwise in a dry ice-carbon tetrachloride bath. After stirring at the same temperature for 30 minutes and at ambient temperature for additional 1 hour, the reaction mixture was treated with 4N-hydrochloric acid under ice-water cooling for 30 minutes. The organic layer was isolated and the aqueous layer was extracted with chloroform twice. The combined organic phases were washed with saturated aqueous sodium hydrogen carbonate, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by a silica gel column chromatography eluted with n-hexane-ethyl acetate to give 1-[3-(tert-butyldiphenylsilyloxymethyl)-2,4-dichlorophenyl]-2-cyanopyrrole (930 mg) as a pale yellow oil.

reactant | 1-[3-(tert-butyldiphenylsilyloxymethyl)-2,4-dichlorophenyl]pyrrole | 1.20 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC=1C(=C(C=CC1Cl)N1C=CC=C1)Cl | C27H27Cl2NOSi
reactant | chlorosulfonyl isocyanate | 0.28 ml | ClS(=O)(=O)N=C=O | CClNO3S
reactant | dimethylformamide | 0.4 ml | CN(C=O)C | C3H7NO
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2.8 ml | ClCCl | CH2Cl2
product | 1-[3-(tert-butyldiphenylsilyloxymethyl)-2,4-dichlorophenyl]-2-cyanopyrrole | 930 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC=1C(=C(C=CC1Cl)N1C(=CC=C1)C#N)Cl | C28H26Cl2N2OSi
